data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(OC)cc(OC)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(OC)cc(OC)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(OC)cc(OC)c1)C(C)C", "products": "COc1cc(OC)cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "COc1cc(OC)cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "COc1cc(OC)cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "COc1cc(OC)cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cc(OC)cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "COc1cc(OC)cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "COc1cc(OC)cc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(C)c(NN=CCc2ccccc2)cc1C.Cl[Zn]Cl", "products": "COc1cc(C)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1C"}, {"reactants": "COc1cc(C)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1C", "products": "COc1cc(C)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1C.[H+]"}, {"reactants": "COc1cc(C)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1C", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(C)ccc2C)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(C)ccc2C)C(=N)C=C1", "products": "COc1cc(C)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1C"}, {"reactants": "COc1cc(C)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1C", "products": "COc1cc(C)c2c(c1C)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(C)c2c(c1C)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(C)c2c(c1C)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(C)c2c(c1C)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(C)c2c(c1C)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(C)c2c(c1C)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(C)c2[nH]cc(-c3ccccc3)c2c1C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "CCOc1ccc(C(=O)C2C3CCC2C3)cc1", "products": "CCOc1ccc([C]([O])C2C3CCC2C3)cc1"}, {"reactants": "CCOc1ccc([C]([O])C2C3CCC2C3)cc1", "products": "CCOc1ccc(C([O])=CC2C[CH]CC2)cc1"}, {"reactants": "CCOc1ccc(C([O])=CC2C[CH]CC2)cc1", "products": "CCOc1ccc(C(O)=CC2C=CCC2)cc1"}, {"reactants": "CCOc1ccc(C(O)=CC2C=CCC2)cc1", "products": "CCOc1ccc(C(=O)CC2C=CCC2)cc1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)CC)c2OC", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)CC)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)CC)c([Si](C)(C)C)cc1=C", "products": "CC[Si](C)(C)c1c([Si](C)(C)C)cc2c(c1OC)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(Br)c(N(C)C(=O)C2=CCCC2)c(OC)c1.[Pd]", "products": "COc1cc(OC)c(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1"}, {"reactants": "COc1cc(OC)c(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1", "products": "COc1cc(OC)c2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1cc(OC)c2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1cc(OC)c2c(c1)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "CN(C(=O)C1=CCCC1)c1cc(Cl)ccc1Br.[Pd]", "products": "CN(C(=O)C1=CCCC1)c1cc(Cl)cc[c]1[Pd][Br]"}, {"reactants": "CN(C(=O)C1=CCCC1)c1cc(Cl)cc[c]1[Pd][Br]", "products": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(Cl)ccc21"}, {"reactants": "CN1C(=O)C2(CCC[CH]2[Pd][Br])c2cc(Cl)ccc21", "products": "CN1C(=O)C2(C=CCC2)c2cc(Cl)ccc21.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccccc1C)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccccc1C)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccccc1C)C(C)C", "products": "Cc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "Cc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "Cc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "Cc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "Cc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "Cc1ccccc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
